US03981890
To a solution of 1 gram of 2-isopropylamino-4,5-methylenedioxybenzhydrol and 28 mls. glacial acetic acid is added 2 grams of ammonium thiocyanate. The resultant mixture is stirred at room temperature for 24 hours to solid precipitates and is removed by filtration. The filtrate is evaporated to dryness and the residual solid taken up in chloroform. This solution is washed with water, dried and evaporated to dryness. The resulting solid is recrystallized from ethyl acetate to yield 1-isopropyl-4-phenyl-6,7-methylenedioxy-3,4-dihydro-2[1H]-quinazolinthione m.p. 214°-218°C.

reactant | 2-isopropylamino-4,5-methylenedioxybenzhydrol | 1 gram | C(C)(C)NC1=C(C(C2=CC=CC=C2)O)C=C2C(=C1)OCO2 | C17H19NO3
reactant | ammonium thiocyanate | 2 grams | [S-]C#N.[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-isopropyl-4-phenyl-6,7-methylenedioxy-3,4-dihydro-2[1H]-quinazolinthione | C(C)(C)N1C(NC(C2=CC3=C(C=C12)OCO3)C3=CC=CC=C3)=S | C18H18N2O2S
